US04136182
20 Grams of 3-hydrazino-4-methyl-6morpholinopyridazine are dispersed in 200 milliliters of 99 percent aqueous formic acid. The mixture is heated at the boiling temperature under reflux and then concentrated until an oily residue remains in the reaction vessel. The residue is taken up in aqueous sodium carbonate solution, and the aqueous mixture is extracted with chloroform. The chloroform extract is dried with anhydrous sodium sulfate, then evaporated under reduced pressure to obtain the 8-methyl-6-morpholino-s-triazolo[4,3-b]pyridazine product as the free base. The product is recrystallized twice from isopropanol and found to melt at 177°-178° C.

reactant | 3-hydrazino-4-methyl-6morpholinopyridazine | N(N)C=1N=NC(=CC1C)N1CCOCC1 | C9H15N5O
reactant | formic acid | 200 milliliters | C(=O)O | CH2O2
product | 8-methyl-6-morpholino-s-triazolo[4,3-b]pyridazine | CC=1C=2N(N=C(C1)N1CCOCC1)C=NN2 | C10H13N5O
